US07977358B2
D] 5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid
To a solution of 5-cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester (154 mg, 0.37 mmol) in 2 ml THF, 1 ml methanol and 1 ml water, was added lithium hydroxide monohydrate (26 mg, 1.11 mmol). The solution was heated at 80° C. for 2 h. The reaction mixture was cooled, diluted with CH2Cl2 and washed with water. The aqueous phases were extracted with three portions of CH2Cl2. The combined organic layers were dried over magnesium sulfate, and evaporated to deliver a white solid (128 mg, 89%) of the tide compound. MS: 388.2 (M−H−).

reactant | 5-cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.37 mmol, 154 mg | C(C)OC(=O)C=1C(=NN(C1C1CC1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1 | C21H18F3N3O3
reactant | lithium hydroxide monohydrate | 1.11 mmol, 26 mg | O.[OH-].[Li+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1)C(=O)O | C19H14F3N3O3
